US07279499B2
B. Preparation of (±)-5-Bis-methoxymethoxy-3-[2-(4-methoxymethoxy-benzoyl)-cyclopentyl]-benzaldehyde
Add sodium hypochlorite (150 mL) to a solution of (±)-[2-(3-hydroxymethyl-2,5-bis-methoxymethoxy-phenyl)-cyclopentyl]-(4-methoxymethoxy-phenyl)-methanone (1.69 g, 3.66 mmol) and tetrabutylammonium bromide (0.500 g, 1.55 mmol) in EtOAc. Stir the biphasic mixture vigorously for 2 hours at ambient temperature and separate the layers. Extract the aqueous solution with EtOAc (50 mL) and wash the combined organics with H2O (50 mL) and brine (25 mL), then dry (MgSO4), filter and concentrate to obtain the subtitled product (1.88 g, >95%) as an oil that may be used without purification. 1H NMR (CDCl3) δ 1.76-1.81 (m, 1H), 1.97-2.14 (m, 4H), 2.24-2.39 (m, 1H), 3.41 (s, 3H), 3.42 (s, 3H), 3.58 (s, 3H), 3.80-3.86 (m, 1H), 4.28-4.33 (m, 1H), 4.94-5.07 (m, 4H), 5,12 (s, 2H), 6.81 (d, J=8.9 Hz, 2H), 7.00 (d, J=3.1 Hz, 1H), 7.08 (d, J=3.1 Hz, 1H), 7.61 (d, J=8.9 Hz, 2H), 10.00 (s, 1H).

reactant | sodium hypochlorite | 150 mL | Cl[O-].[Na+]
reactant | (±)-[2-(3-hydroxymethyl-2,5-bis-methoxymethoxy-phenyl)-cyclopentyl]-(4-methoxymethoxy-phenyl)-methanone | 3.66 mmol, 1.69 g | OCC=1C(=C(C=C(C1)OCOC)C1C(CCC1)C(=O)C1=CC=C(C=C1)OCOC)OCOC | C25H32O8
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrabutylammonium bromide | 1.55 mmol, 0.500 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (±)-5-Bis-methoxymethoxy-3-[2-(4-methoxymethoxy-benzoyl)-cyclopentyl]-benzaldehyde | 1.88 g, >95% | COC(OC=1C=C(C=C(C=O)C1)C1C(CCC1)C(C1=CC=C(C=C1)OCOC)=O)OC | C24H28O7
